US07064124B2
5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(3-methoxyphenoxy)benzoic acid
Methyl 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-(3-methoxyphenoxy)benzoate (0.200 g, 0.414 mmol) was dissolved in a mixed solution of an aqueous 1N NaOH solution (3 ml) and 1,4-dioxane (3 ml) and the resulting solution was stirred at room temperature for 6 hours. The reaction solution was diluted with water, rendered acidic with concentrated hydrochloric acid and then extracted with ether. The extract was washed with water and then dried, and the solvent was removed by distillation. The residue was recrystallized from ether to obtain the titled compound (0.190 g, 0.408 mmol, 99%).

reactant | Methyl 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-(3-methoxyphenoxy)benzoate | 0.414 mmol, 0.200 g | COC=1C(=C(CC=2C=CC(=C(C(=O)OC)C2)OC2=CC(=CC=C2)OC)C(=C(C1OC)OC)OC)C | C27H30O8
reactant | hydrochloric acid | Cl | ClH
solvent | NaOH | 1N, 3 ml | [OH-].[Na+]
solvent | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(3-methoxyphenoxy)benzoic acid | 0.408 mmol, 0.190 g, 99% | COC=1C(=C(CC=2C=CC(=C(C(=O)O)C2)OC2=CC(=CC=C2)OC)C(=C(C1OC)OC)OC)C | C26H28O8
